US05763458
Proceeding as in Example 4, Step (a), but replacing 1,5-dichlcoro-pentan-1-one with 1,5-dibromopentan-1-one and N-acetyl-2-chloro-5-methoxyaniline with N-acetyl-2-bromo-5-methoxyaniline, gave 1-(4-acetylamino-5-bromo-2-hydroxyphenyl)-5-bromopentan-1-one.

reactant | 1,5-dibromopentan-1-one | BrC(CCCCBr)=O | C5H8Br2O
reactant | N-acetyl-2-chloro-5-methoxyaniline | C(C)(=O)NC1=C(C=CC(=C1)OC)Cl | C9H10ClNO2
reactant | N-acetyl-2-bromo-5-methoxyaniline | C(C)(=O)NC1=C(C=CC(=C1)OC)Br | C9H10BrNO2
product | 1-(4-acetylamino-5-bromo-2-hydroxyphenyl)-5-bromopentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Br)C(CCCCBr)=O)O | C13H15Br2NO3
